US08685977B2
4-(Bromomethyl)-5-chloro-2-fluoro-N-(methylsulfonyl)benzamide
To a suspension of 5-chloro-2-fluoro-4-methyl-N-(methylsulfonyl)benzamide (Preparation 165, 118 g, 0.45 mol) in 1,2-dichloroethane (1.25 L) was added N-bromosuccinimide (91 g, 0.51 mol) and benzoyl peroxide (5 g, 20 mmol) and the mixture heated to reflux for 18 hours. N-bromosuccinimide (30 g, 0.17 mol) was then added and the solution heated 24 hours more. A further portion of N-bromosuccinimide (20 g, 0.11 mol) was added and the solution heated for 3 hours, then cooled and washed with water (1 L) containing aqueous sodium thiosulphate solution (200 mL, 0.5 M). The organic layer was washed with water (500 mL), dried over sodium sulphate and concentrated in vacuo to yield a crude solid. To a solution of this crude solid in EtOAc (1 L) was added diisopropylethylamine (130 mL, 0.75 mol) and diethyl phosphite (27.6 g, 0.2 mol) and the mixture stirred for 5 hours under nitrogen, then washed with aqueous hydrochloric acid (1 L, 2 M), dried over magnesium sulphate and evaporated to yield a dark solid. Trituration with diethyl ether (200 mL) gave the first crop of title compound as a tan solid (68 g). The filtrate was purified by silica gel chromatography eluting with 10% EtOAc in DCM containing acetic acid (1%), followed by crystallization from acetonitrile (130 mL) to yield the second crop of the title compound (30 g):

reactant | 5-chloro-2-fluoro-4-methyl-N-(methylsulfonyl)benzamide | 0.45 mol, 118 g | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)C | C9H9ClFNO3S
reactant | N-bromosuccinimide | 0.51 mol, 91 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 20 mmol, 5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.17 mol, 30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.11 mol, 20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diisopropylethylamine | 0.75 mol, 130 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl phosphite | 0.2 mol, 27.6 g | P(OCC)(OCC)[O-]
solvent | 1,2-dichloroethane | 1.25 L | ClCCCl | C2H4Cl2
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-(Bromomethyl)-5-chloro-2-fluoro-N-(methylsulfonyl)benzamide | 68 g | BrCC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1Cl)F | C9H8BrClFNO3S
